US04435419
4'-(3-Azabicyclo[3.1.0]hex-1-yl)-propiophenone hydrochloride
A mixture of 5.6 g. of 1-phenyl-3-azabicyclo[3.1.0]hexane hydrochloride, 12.9 g. of aluminum chloride and 6.2 g. of propionyl chloride in 55 ml. of dichloromethane is reacted as described in Example 57, to give 4.5 g. of the desired product, m.p. 191°-193° C.

reactant | 1-phenyl-3-azabicyclo[3.1.0]hexane hydrochloride | Cl.C1(=CC=CC=C1)C12CNCC2C1
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4'-(3-Azabicyclo[3.1.0]hex-1-yl)-propiophenone hydrochloride | Cl.C12(CNCC2C1)C1=CC=C(C=C1)C(CC)=O | InChI=1S/C14H17NO.ClH/c1-2-13(16)10-3-5-11(6-4-10)14-7-12(14)8-15-9-14;/h3-6,12,15H,2,7-9H2,1H3;1H
